US05783589
The methyl 6-methylanthranilate so prepared (4.23 g, 0.026 mol) was dissolved in 25 ml of acetic acid and the solution cooled to 0° C. Concentrated hydrochloric acid (45 ml) was added to produce a tan slurry. A solution of 1.89 g (0.027 mol) of sodium nitrite in 8 ml water was added dropwise with stirring, the resulting orange solution was stirred at 0° C. for 1 hour and then added in 6 portions to a mixture of 2.18 g (0.013 mol) of cupric chloride dihydrate and sulfur dioxide (6.3 g) in 33 ml of acetic acid and 6 ml of water at 0° C. The dark green solution was stirred at room temperature overnight, poured into 300 ml of ice-water, and the solid which separated was collected and dried by suction to provide 1.11 g of methyl 2-chlorosulfonyl-6-methylbenzoate which was immediately added to 100 ml of ice cold ammonium hydroxide and stirred at room temperature overnight. The solution was acidified to pH 1 with concentrated hydrochloric acid, and the resulting precipitate was collected and air-dried to provide 729 mg (12%) of 4-methylsaccharin, mp 224°-226° C.

reactant | methyl 6-methylanthranilate | CC=1C=CC=C(C1C(=O)OC)N | C9H11NO2
reactant | hydrochloric acid | 45 ml | Cl | ClH
reactant | sodium nitrite | 0.027 mol, 1.89 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 6.3 g | S(=O)=O | O2S
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | 8 ml | O | H2O
solvent | acetic acid | 33 ml | C(C)(=O)O | C2H4O2
solvent | water | 6 ml | O | H2O
product | methyl 2-chlorosulfonyl-6-methylbenzoate | 1.11 g | ClS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)C | C9H9ClO4S
